US04097504
A mixture of 8-acetyl-12-hydroxyheptadecanoic acid (8.2 g., 0.025 mole) and 97% formic acid (10 ml.) is heated at 60° for 24 hours. The mixture is cooled, dissolved in 100 ml. ether, washed with 3 portions of water and dried over sodium sulfate. Evaporation of the ether leaves the product 8-acetyl-12-formyloxyheptadecanoic acid as slightly yellowish viscous oil.

reactant | 8-acetyl-12-hydroxyheptadecanoic acid | 0.025 mole, 8.2 g | C(C)(=O)C(CCCCCCC(=O)O)CCCC(CCCCC)O | C19H36O4
reactant | formic acid | 10 ml | C(=O)O | CH2O2
product | 8-acetyl-12-formyloxyheptadecanoic acid | C(C)(=O)C(CCCCCCC(=O)O)CCCC(CCCCC)OC=O | C20H36O5
